US07339058B2
2-Amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine (5.6 g, 0.029 mol) was slurried in dichloromethane (100 mL) and methyl sulfide (1.9 g, 0.031 mol) was added. The mixture was cooled to −25° C., and a solution of N-chlorosuccinimide (4.2 g, 0.031 mol) in acetonitrile (40 mL) was added to the reaction slurry over one hour, keeping the internal temperature at −22 to −28° C. When the addition was complete, the reaction was allowed to warm to room temperature over several hours. The new slurry was filtered and the solids washed with acetonitrile (2×40 mL). The solids were dried in a vacuum oven to provide 7.7 g of N-(5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidin-2-yl)-S,S-dimethylsulfilimine hydrochloride as a light tan solid, m.p. 170-174° C. The material was 95 area % pure by HPLC, with the remainder being the amine starting material.

reactant | 2-Amino-5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidine | 0.029 mol, 5.6 g | NC1=NN2C(=NC=C(C2=N1)OC)OC | C7H9N5O2
reactant | methyl sulfide | 0.031 mol, 1.9 g | CSC | C2H6S
reactant | N-chlorosuccinimide | 0.031 mol, 4.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | N-(5,8-dimethoxy[1,2,4]triazolo[1,5-c]pyrimidin-2-yl)-S,S-dimethylsulfilimine hydrochloride | 7.7 g | Cl.COC1=NC=C(C=2N1N=C(N2)N=S(C)C)OC | InChI=1S/C9H13N5O2S.ClH/c1-15-6-5-10-9(16-2)14-7(6)11-8(12-14)13-17(3)4;/h5H,1-4H3;1H
